US04560699
To a solution of 175 mg of 5-(4-vinylbenzoyl)-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 5 ml of methanol is added 1 molar equivalent of potassium hydroxide, in the form of a 0.1N solution, thus yielding a solution containing potassium 5-(4-vinylbenzoyl)-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate. A solution of 40 mg of calcium carbonate dissolved in the minimum amount of 1N hydrochloric acid necessary to effect solution of the calcium carbonate, is buffered with 100 mg of solid ammonium chloride, followed by the further addition of 5 ml of water. The thus obtained buffered calcium solution is then added to the solution of potassium 5-(4-vinylbenzoyl)-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate and the precipitate which forms is collected by filtration, washed with water and air dried to yield calcium 5-(4-vinylbenzoyl)-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]-pyrrole-1-carboxylate.

reactant | potassium 5-(4-vinylbenzoyl)-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C(=C)C1=CC=C(C(=O)C2=C(C=C3N2CCC3C(=O)[O-])Cl)C=C1.[K+]
reactant | calcium carbonate | 40 mg | C([O-])([O-])=O.[Ca+2]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | calcium | [Ca] | Ca
solvent | hydrochloric acid | 1N | Cl | ClH
solvent | water | 5 ml | O | H2O
product | calcium 5-(4-vinylbenzoyl)-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]-pyrrole-1-carboxylate | C(=C)C1=CC=C(C(=O)C2=C(C=C3N2CCC3C(=O)[O-])Cl)C=C1.[Ca+2].C(=C)C1=CC=C(C(=O)C3=C(C=C2N3CCC2C(=O)[O-])Cl)C=C1 | InChI=1S/2C17H14ClNO3.Ca/c2*1-2-10-3-5-11(6-4-10)16(20)15-13(18)9-14-12(17(21)22)7-8-19(14)15;/h2*2-6,9,12H,1,7-8H2,(H,21,22);/q;;+2/p-2
